US05451596
To a mixture of trans-2-triphenylmethylaminomethyl-[4-(benzoxazol-2-yl)benzyloxymethyl]cyclopropane (0.252 g; 0.458 mmol) in 40 ml EtOH:CH2Cl2 ; 10:1 is added ethanolic HCl until pH≅2. This is stirred overnight, further ethanolic HCl is added and stirring continued another 24 hrs. The reaction mixture is then heated to reflux for 5 hrs., concentrated in vacuo and flash chromatographed using CH2Cl2 : EtCH; 3:1 to obtain trans-2-aminomethyl-[4-(benzoxazol-2-yl)benzyloxy-methyl]cyclopropane hydrochloride as a white solid (m.p. >250° C.).

reactant | trans-2-triphenylmethylaminomethyl-[4-(benzoxazol-2-yl)benzyloxymethyl]cyclopropane | 0.458 mmol, 0.252 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC[C@H]1[C@@H](C1)COCC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C38H34N2O2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | HCl | Cl | ClH
solvent | EtOH | 40 ml | CCO | C2H6O
product | trans-2-aminomethyl-[4-(benzoxazol-2-yl)benzyloxy-methyl]cyclopropane hydrochloride | Cl.NC[C@H]1[C@@H](C1)COCC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | InChI=1S/C19H20N2O2.ClH/c20-10-15-9-16(15)12-22-11-13-5-7-14(8-6-13)19-21-17-3-1-2-4-18(17)23-19;/h1-8,15-16H,9-12,20H2;1H/t15-,16-;/m0./s1
